US06861434B2
8-[4-(4-Fluoro-benzoyl)-piperidin-1-ylmethyl]-1,3,7,8-tetrahydro-6,9-dioxa-1,3-diaza-cyclopenta[a]naphthalen-2-one
A mixture of 0.60 g (1.6 mmole) of (8R)-1,3,7,8-tetrahydro-8-[[[(4 methylphenyl)sulfonyl]oxy]methyl]-2H-[1,4]dioxino[2,3-e]benzimidazol-2-one and 1.7 g (8.0 mmole) of 4-(4-fluorobenzoyl)piperidine in 30 mL of DMSO was heated at in 90° C. under nitrogen for 5 hours. The reaction was allowed to come to room temperature, diluted to 500 mL with ethyl acetate, washed with 500 mL portions of saturated aqueous sodium bicarbonate and water, dried over sodium sulfate, filtered and evaporated in vacuum. The residue was column chromatographed on silica gel with 2% methanol in chloroform as eluant and the product fractions evaporated to give the free base as a colorless oil. This was recrystallized from ethanol with the addition of 4 N isopropanolic HCl to give 0.13 g of the (S)-enantiomer of the title compound. A second recrystallization from ethanol gave 0.095 g of the product as a white solid hydrochloride, hydrate, m.p. 250-256° C. (d).

reactant | (8R)-1,3,7,8-tetrahydro-8-[[[(4 methylphenyl)sulfonyl]oxy]methyl]-2H-[1,4]dioxino[2,3-e]benzimidazol-2-one | 1.6 mmole, 0.60 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(C3=C(NC(N3)=O)C=C2)O1 | C17H16N2O6S
reactant | 4-(4-fluorobenzoyl)piperidine | 8.0 mmole, 1.7 g | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-[4-(4-Fluoro-benzoyl)-piperidin-1-ylmethyl]-1,3,7,8-tetrahydro-6,9-dioxa-1,3-diaza-cyclopenta[a]naphthalen-2-one | FC1=CC=C(C(=O)C2CCN(CC2)CC2COC3=CC=C4C(=C3O2)NC(N4)=O)C=C1 | C22H22FN3O4
